US07294631B2
1.2 4-Amino-4-cyanomethyl-piperidine-1-carboxylic acid ethyl ester
A solution of 51.38 g (264.53 mol) of 4-cyanomethylene-piperidine-1-carboxylic acid ethyl ester in 301 ml of an aqueous ammonia solution (29%) and 50 ml of methanol was heated at 110° C. in a sealed tube for 48 h. The reaction mixture was concentrated, and the residue was chromatographed on silica gel eluting with a mixture of dichloromethane/methanol in the proportions 100/0 to 96/4 to afford 40 g of the product as a white solid.

reactant | 4-cyanomethylene-piperidine-1-carboxylic acid ethyl ester | 264.53 mol, 51.38 g | C(C)OC(=O)N1CCC(CC1)=CC#N | C10H14N2O2
reactant | ammonia | 301 ml | N | H3N
solvent | methanol | 50 ml | CO | CH4O
product | 4-Amino-4-cyanomethyl-piperidine-1-carboxylic acid ethyl ester | 40 g | C(C)OC(=O)N1CCC(CC1)(CC#N)N | C10H17N3O2
